US05821246
Using an analogous procedure to that described in Example 1, 6-acetoxy-4-chloroquinazoline hydrochloride was reacted with 4-amino-2-fluorophenyl 1-methylimidazol-2-yl sulphide to give 6-acetoxy-4-[3-fluoro-4-(1-methylimidazol-2-ylthio)anilino]quinazoline dihydrochloride salt in 58% yield, m.p. 245-248 (decomposes);

reactant | 6-acetoxy-4-chloroquinazoline hydrochloride | Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)Cl
reactant | 4-amino-2-fluorophenyl 1-methylimidazol-2-yl sulphide | CN1C(=NC=C1)SC1=C(C=C(C=C1)N)F | C10H10FN3S
product | 6-acetoxy-4-[3-fluoro-4-(1-methylimidazol-2-ylthio)anilino]quinazoline dihydrochloride salt | 58% yield | Cl.Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)SC=1N(C=CN1)C)F | InChI=1S/C20H16FN5O2S.2ClH/c1-12(27)28-14-4-5-17-15(10-14)19(24-11-23-17)25-13-3-6-18(16(21)9-13)29-20-22-7-8-26(20)2;;/h3-11H,1-2H3,(H,23,24,25);2*1H
